US07109219B2
N1-Ethyl-5-(2-amino-4-pyridyl)oxy-1H-1-indolecarboxamide
Sodium hydride (573 mg, 14.32 mmol) was suspended in N,N-dimethylformamide (30 ml) under nitrogen atmosphere. 4-(1H-5-Indolyloxy)-2-pyridinamine (3.00 g, 13.32 mmol, CAS No. 417722-11-3) described in WO 02/32872 was gradually added thereto while stirred at room temperature. After 10 minutes, the reaction mixture was cooled with an ice water bath, and phenyl N-ethylcarbamate (2.31 g, 13.98 mmol) was added. The reaction mixture was heated to room temperature and was stirred for 2 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was distilled off, then the crystals were precipitated from ethyl acetate, filtered off, and dried under aeration to yield the title compound (3.168 g, 10.69 mmol, 80.3%) as pale brown crystals.

reactant | Sodium hydride | 14.32 mmol, 573 mg | [H-].[Na+]
reactant | 4-(1H-5-Indolyloxy)-2-pyridinamine | 13.32 mmol, 3.00 g | N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N | C13H11N3O
reactant | phenyl N-ethylcarbamate | 13.98 mmol, 2.31 g | C(C)NC(OC1=CC=CC=C1)=O | C9H11NO2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N1-Ethyl-5-(2-amino-4-pyridyl)oxy-1H-1-indolecarboxamide | 10.69 mmol, 3.168 g, 80.3% | C(C)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N | C16H16N4O2
